US07786132B2
1-(4-(Piperidin-1-ylsulfonyl)phenyl)ethanone
A mixture of 4-acetylbenzene-1-sulfonyl chloride (2 g, 9.2 mmol), piperidine (0.85 g, 10.0 mmol) and triethylamine (1.9 g, 18.4 mmol) in tetrahydrofuran (60 mL) was stirred at rt overnight. Brine (100 mL) was added and the mixture was extracted with ethyl acetate (3×100 mL). The combined organic layer was washed with brine (100 mL), dried over anhydrous sodium sulfate and filtered. Removal of solvent in vacuo gave the title compound as a white solid (2.3 g, 94%). MS (M+H)+ 268.

reactant | 4-acetylbenzene-1-sulfonyl chloride | 9.2 mmol, 2 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
reactant | piperidine | 10.0 mmol, 0.85 g | N1CCCCC1 | C5H11N
reactant | triethylamine | 18.4 mmol, 1.9 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | Brine | 100 mL | [Cl-].[Na+].O
product | 1-(4-(Piperidin-1-ylsulfonyl)phenyl)ethanone | 2.3 g, 94% | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)C(C)=O | C13H17NO3S
